US07700641B2
B. Synthesis of 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one
To a solution of 1,3-benzodioxol-5-ol (1.25 g, 9.06 mmol) in THF (20.0 mL) was added dropwise a solution of isopropylmagnesium chloride solution (4.53 mL, 9.06 mmol, 2.0 M in THF) at 0° C. over 5 min. The reaction mixture was stirred for 0.5 h upon which time colorless precipitate was formed. After the solvent was removed under reduced pressure, the residue was dissolved in dichloromethane (20.0 mL) and cooled to 0° C. A solution of 1-(2-cyclopropylethyl)-1H-indole-2,3-dione (1.77 g, 8.23 mmol) in dichloromethane (20.0 mL) was added to the above solution at 0° C. The resulting mixture was stirred at ambient temperature for 16 h and quenched with saturated ammonium chloride solution (30.0 mL). The organic layer was separated and washed with water (3×25.0 mL), dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was crystallized from ethyl acetate and ether to give the title compound (2.22 g, 76%) as a colorless solid: 1H NMR (300 MHz, CDCl3) δ 9.52 (s, 1H), 7.46 (d, 1H), 7.37 (dt, 1H), 7.18 (dt, 1H), 6.90 (d, 1H), 6.56 (s, 1H), 6.23 (s, 1H), 5.84 (dd, 2H), 4.55 (s, 1H), 3.87-3.63 (m, 2H), 1.64-1.44 (m, 2H), 0.68-0.55 (m, 1H), 0.41-0.27 (m, 2H), −0.02-(−0.07) (m, 2H); 13C NMR (75 MHz, CDCl3) δ 179.1, 152.4, 148.8, 142.7, 141.3, 130.3, 129.1, 126.3, 123.7, 117.3, 109.5, 106.9, 101.9, 101.4, 79.3, 40.6, 32.2, 8.6, 4.3, 4.2; MS (ES+) m/z 337.6 (M−17).

reactant | 1,3-benzodioxol-5-ol | 9.06 mmol, 1.25 g | O1COC2=C1C=CC(=C2)O | C7H6O3
reactant | isopropylmagnesium chloride | 9.06 mmol, 2.0 M, 4.53 mL | C(C)(C)[Mg]Cl
reactant | 1-(2-cyclopropylethyl)-1H-indole-2,3-dione | 8.23 mmol, 1.77 g | C1(CC1)CCN1C(C(C2=CC=CC=C12)=O)=O | C13H13NO2
solvent | THF | 20.0 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 20.0 mL | ClCCl | CH2Cl2
product | 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | 2.22 g, 76% | C1(CC1)CCN1C(C(C2=CC=CC=C12)(C1=CC2=C(OCO2)C=C1O)O)=O | C20H19NO5
